US07351726B2
Step 9: Synthesis of Z-2-[-3-(3-Benzyl-2-ethyl-benzofuran-6-yl)-pent-2-enyl]-[1,2,4]oxadiazolidine-3,5-dione:
A solution of chlorocarbonyl isocyanate (0.31 mL; 3.88 mmol) in THF (5 mL) was added dropwise to the solution of Z-N-[3-(3-Benzyl-2-ethyl-benzofuran-6-yl)-pent-2-enyl]-hydroxylamine (1.3 g; 3.88 mmol) in THF (25 mL) at −10° C. The mixture was stirred for 1 hour at −10 to −5° C., and at 0° C. for 30 minutes, then poured over cold 1N HCl solution and extracted with ethyl acetate (3×50 mL). The organic extracts were combined, dried over anhydrous magnesium sulfate and solvent evaporated. The residue was purified by flash chromatography over acid-treated silica gel using 2-5% ethyl acetate in hexane as an eluent. The title compound was obtained (0.82 g) as a white solid. mp: 118-120° C. Mass spectrum (APCI, [M+H]+) m/z 405. 1HNMR (400 MHz, DMSO-d6): δ 0.88 (t, 3H, J=7.32 Hz), 1.23 (t, 3H, J=7.56 Hz), 2.42 (q, 2H, J=7.80 Hz), 2.87 (q, 2H, J=7.32 Hz), 3.98 (s, 2H), 4.12 (d, 2H, J=6.83 Hz), 5.51 (t, 1H, J=6.59 Hz), 6.96 (dd, 1H, J=8.05, 1.46 Hz) 7.14-7.19 (m, 1H), 7.24-7.28 (m, 3H), 7.30 (d, 1H, J=1.0 Hz), 7.37 (d, 1H, J=7.81 Hz), 12.3 (s, 1H). Elemental Analysis for C24H24N2O4: Calculated: C, 71.27; H, 5.98, N, 6.93. Found: C, 71.17; H, 6.14, N, 6.83.

reactant | chlorocarbonyl isocyanate | 3.88 mmol, 0.31 mL | ClC(=O)N=C=O | C2ClNO2
reactant | Z-N-[3-(3-Benzyl-2-ethyl-benzofuran-6-yl)-pent-2-enyl]-hydroxylamine | 3.88 mmol, 1.3 g | C(C1=CC=CC=C1)C1=C(OC2=C1C=CC(=C2)\C(=C/CNO)\CC)CC | C22H25NO2
reactant | HCl | 1N | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | Z-2-[-3-(3-Benzyl-2-ethyl-benzofuran-6-yl)-pent-2-enyl]-[1,2,4]oxadiazolidine-3,5-dione | C(C1=CC=CC=C1)C1=C(OC2=C1C=CC(=C2)\C(=C/CN2OC(NC2=O)=O)\CC)CC | C24H24N2O4
